US05095016
Preparation of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-[N-methyl-(N-cyano-acetimidoyl)amino]-2H-benzo[b]pyran-3-ol
To 2.80 g of ethyl N-cyanoacetimidate, 4.65 g of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-methylamino-2H-benzo[b]pyran-3-ol was added, and the mixture was reacted under stirring at a temperature of from 100° to 120° C. for 2 hours. The reaction mixture was cooled, then dissolved in 100 ml of ethyl acetate, washed twice with a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, ethyl acetate was distilled off under reduced pressure. The residual solid was recrystallized from ethanol to obtain 2.34 g of the above identified compound in the form of crystals.

reactant | ethyl N-cyanoacetimidate | 2.80 g | C(#N)N=C(C)OCC | C5H8N2O
reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-methylamino-2H-benzo[b]pyran-3-ol | 4.65 g | C(#N)C1=CC2=C(OC([C@H]([C@@H]2NC)O)(C)C)C=C1 | C13H16N2O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-[N-methyl-(N-cyano-acetimidoyl)amino]-2H-benzo[b]pyran-3-ol | C(#N)C1=CC2=C(OC([C@H]([C@@H]2N(C)C(C)=NC#N)O)(C)C)C=C1 | C16H18N4O2
